US04625047
To a stirred solution of sodium methoxide (7.2 g, 0.133 mole) in ethanol (240 ml) and ethyl 3-oxopentanoate (13.5 ml) was added [2,3-dichloro-4-(3-dimethylamino-1-oxopropyl)phenoxy]acetic acid hydrochloride (15.0 g, 0.042 mole). The reaction mixture was heated at reflux for 3 hours, the solvent was distilled at reduced pressure, then the mixture was treated with 150 ml of 2.5% sodium hydroxide and heated on a steam bath for 21/2 hours. The mixture was diluted with water, acidified, extracted into ether, washed with water, brine, dried over magnesium sulfate and evaporated at reduced pressure to give 4.1 g of [2,3-dichloro-4-(2-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 143°-145° C. after recrystallization from butyl chloride.

reactant | sodium methoxide | 0.133 mole, 7.2 g | C[O-].[Na+]
reactant | [2,3-dichloro-4-(3-dimethylamino-1-oxopropyl)phenoxy]acetic acid hydrochloride | 0.042 mole, 15.0 g | Cl.ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(CCN(C)C)=O
reactant | ethyl 3-oxopentanoate | 13.5 ml | O=C(CC(=O)OCC)CC | C7H12O3
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(2-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 4.1 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=C(C(CCC1)=O)C | C15H14Cl2O4
